US07960567B2
1-(2,2-Dibromovinyl)-4-methoxy-2,3-dimethylbenzene (12.1).
Under an N2 atmosphere, 2,3-dimethylanisaldehyde (3.0 g, 18.3 mmol) was dissolved in dichloromethane (100 mL) and cooled to 0° C. Carbon tetrabromide (9.10 g, 27.4 mmol) was added followed by a dropwise addition of triphenylphosphine (14.4 g, 54.9 mmol) in dichloromethane (100 mL). The reaction was allowed to stir at 1.5 h at 0° C. The reaction was concentrated in vacuo, and the resulting residue was suspended in a mixture of hexanes and chloroform (4:1). The solid was removed by filtration and discarded. The filtrate was concentrated in vacuo and flash column chromatographed on silica gel eluting with 0% to 40% ethyl acetate in hexanes to yield the desired product. 1H NMR (400 MHz) (CDCl3) δ 7.44 (s, 1H); 7.19 (d, J=8.0 Hz, 1H): 6.72 (d, J=8.0 Hz, 1H), 3.82 (s, 3H); 2.17 (s, 3H); 2.16 (s, 3H).

reactant | 2,3-dimethylanisaldehyde | 18.3 mmol, 3.0 g | CC1=C(C=O)C=CC(=C1C)OC | C10H12O2
reactant | Carbon tetrabromide | 27.4 mmol, 9.10 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 54.9 mmol, 14.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(2,2-Dibromovinyl)-4-methoxy-2,3-dimethylbenzene | BrC(=CC1=C(C(=C(C=C1)OC)C)C)Br | C11H12Br2O
